US05225402
1-[1-(4-Benzyloxybenzoyl)-4-piperidinyl]-3,4-dihyrocarbostyril (4.76 g) is dissolved in methanol (100 ml) and thereto is added 5% palladium-carbon (1 g). The mixture is stirred at room temperature under 1 atm. under hydrogen atmosphere. After the completion of the reaction, the catalyst is filetered off and the filtrate is concentrated. The resultant is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=1:1) and further recrystallized from n-hexane/ethanol to give 1-[1-(4-hydroxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (2.5 g) as white powder, m.p. 182°-183° C.

reactant | 1-[1-(4-Benzyloxybenzoyl)-4-piperidinyl]-3,4-dihyrocarbostyril | 4.76 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C28H28N2O3
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 1-[1-(4-hydroxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 2.5 g | OC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C21H22N2O3
